Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with history of TBI (complicated by
grand mal frontal lobe seizures, on levetiracetam and
lacosamide), bipolar disorder, who initially presented on ___
after a witnessed seizure; susteained second seizure in ED, s/p
2mg IV lorazepam. 

The patient was recently admitted to ___ for seizures, and had
been discharged to The ___ in ___, but eloped from the facility on ___ at 2:20pm. The
patient had a witnessed seziure at the ___ on
the morning of ___, after presumably having missed two doses of 
his seizure medications. Per witnesses, he fell backwards with a 
head
strike and had ___ mins of GTC activity. He was confused after
this event. On arrival to the ED, he was feeling slightly 
better,
but stated that his head was still foggy, and that his feet felt
numb. He had a second 1 min GTC in the ED shortly after arrival,
aborted with 2mg IV lorazepam. The patient states that he has
been on Keppra and Vimpat for "years," but he noted to the
Neurology team that "someone" had recently increased his Keppra
dose to to 1500mg, although records from ___ indicate 
that
he had been on 1000mg BID prior to his elopement.

Per patient's mother, he has 'frequent' seizures, and likely
hadn't taken his evening AED doses on ___, or his AM doses on
___. She says that he was recently treated at ___ after
experiencing a cluster of 6 seizures, and on discharge was sent
to ___, a new facility for him. He was at ___
awaiting long term placement, as he is unable to live
independently due to TBI. The patient states that he left the
facility because someone was poisoning his medications at the
pharmacy. Staff and police had been looking for him after his
elopement, and were notified when he arrived in the ED.  

In the ED:
Initial vital signs were notable for:
HR 56, BP 140/100, RR 16, PulseOx 100% RA, glucose 108 

Exam notable for: Significant sleepiness and intermittent
agitation, L reduced eyelid closure, otherwise nonfocal neuro
exam. Smelled of alcohol per ED staff. Patient had a second 1 
min
GTC in ED, aborted with 2mg IV lorazepam.  

Labs were notable for:
BMP notable for K of 5.0, Na 138, Bicarb 32, Cr 0.6
CBC notable for WBC 11.5 (neut 83.5%), Hgb 13.1
Lactate 1.9 > 1.4   
UA wnl except for trace protein, hazy appearance 
Phenytoin < 0.8 
Serum ASA, EtOH, acetaminophen, TCA negative 
Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne, Oxycodone
negative
Urine Cx: MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT
WITH SKIN AND/OR GENITAL CONTAMINATION

Studies performed include: 
CT Head W/O Contrast:  
1. No acute intracranial abnormality.
2. Mild bifrontal soft tissue swelling.
3. Mildly displaced left nasal bone fracture, without associated
soft tissue swelling, is likely nonacute.
4. Right frontal encephalomalacia is likely sequela of prior
traumatic injury.

CT C-Spine W/O Contrast: 
1. No fracture or malalignment.
2. Multilevel moderate multilevel degenerative changes of
cervical spine.

CXR: Mild bibasilar atelectasis in the setting of low lung
volumes.  No focal consolidation to suggest pneumonia. 

Patient was given: IV Lorazepam (2mg during seizure, then 1mg),
Keppra 1000mg x3, Lacosamide 200mg x2, 

Consults: Neurology, Psychiatry, ___   

Vitals on transfer: T98, HR58, BP 131/80, RR16, 96%RA

Upon arrival to the floor, patient endorsed feeling "foggy" but
otherwise had no complaints. Denied CP, SOB, blood in stool, or
change in bowel habits. Also denied LH, dizziness. Of note, he
volunteers that he has a low heart rate in the past, has never
had syncope or blackouts. 

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.

 
Past Medical History:
PAST MEDICAL HISTORY:
- TBI in ___ after an MVA, c/b seizures 
- Bipolar Disorder 
- HCV 
- Gun shot wound in ___ s/p Splenectomy 

 
Social History:
___
Family History:
Hx of seizures in his maternal aunt. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: ___ Temp: 98.0 PO BP: 130/87 R Sitting HR: 60
RR: 18 O2 sat: 97% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, bradycardic. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rash. Well-healed scar over R forehead. 
NEUROLOGIC: L facial droop, flattened nasolabial fold (old per
patient, from his TBI). Pt able to raise eyebows symmetrically
and smile. CN8-11 normal. Strength grossly intact, normal gait.
AOx3.

DISCHARGE PHYSICAL EXAM:
=======================
24 HR Data (last updated ___ @ 711)
    Temp: 97.7 (Tm 99.0), BP: 109/69 (106-129/68-78), HR: 68
(61-81), RR: 18, O2 sat: 96% (94-96), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress. Sitting
comfortably. 
CV: RRR with normal S1 and S2. No murmurs, rubs or gallops. 
Pulm: Normal respiratory effort. CTAB without wheezes, rales or
rhonchi. 
Abdomen: BS+, soft, nontender, nondistended 
Ext: warm, well perfused. No ___ edema or erythema.
Skin: No rashes.
Neuro: Alert and interactive. Moves all extremities. 
Psych: Talks in circles and perseverates on certain points. 
Speech is pressured and he is hard to interrupt, moving easily 
between being happy and angry/frustrated. 
 
Pertinent Results:
ADMISSION LABS: 
==============
___ 02:27PM   LACTATE-1.4
___ 01:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 01:05PM URINE  RBC-0 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 12:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:04AM   GLUCOSE-109* UREA N-15 CREAT-0.6 SODIUM-138 
POTASSIUM-5.0 CHLORIDE-97 TOTAL CO2-32 ANION GAP-9*
___ 11:04AM   CALCIUM-9.9 PHOSPHATE-4.0 MAGNESIUM-1.9
___ 11:04AM   PHENYTOIN-<0.8*
___ 11:04AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:04AM   WBC-11.5* RBC-4.31* HGB-13.1* HCT-40.9 MCV-95 
MCH-30.4 MCHC-32.0 RDW-13.3 RDWSD-47.0*
___ 11:04AM   NEUTS-83.5* LYMPHS-7.9* MONOS-7.6 EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-9.62* AbsLymp-0.91* AbsMono-0.88* 
AbsEos-0.01* AbsBaso-0.03

RADIOLOGY:
CT Spine ___:
1. No fracture or malalignment.
2. Multilevel moderate multilevel degenerative changes of 
cervical spine.

CT Head ___:
IMPRESSION:
1. No acute intracranial abnormality.
2. Mild bifrontal soft tissue swelling.
3. Mildly displaced left nasal bone fracture, without associated 
soft tissue
swelling, is likely nonacute.
4. Right frontal encephalomalacia is likely sequela of prior 
traumatic injury.

CXR ___:
Mild bibasilar atelectasis in the setting of low lung volumes.  
No focal
consolidation to suggest pneumonia.

MICRO:
**FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE LABS: 
==============
___ 09:22AM BLOOD WBC-6.8 RBC-4.93 Hgb-15.4 Hct-45.9 MCV-93 
MCH-31.2 MCHC-33.6 RDW-13.2 RDWSD-45.4 Plt ___
___ 09:22AM BLOOD Glucose-97 UreaN-10 Creat-0.7 Na-142 
K-4.6 Cl-104 HCO3-26 AnGap-12
___ 09:22AM BLOOD Calcium-9.9 Phos-3.7 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with history of TBI (complicated 
by grand mal frontal lobe seizures, on levetiracetam and 
lacosamide) who initially presented on ___ after a witnessed 
seizure.

ACUTE ISSUES: 
============
#Seizure disorder 
Patient presented with seizure outside of ___ Public Library. 
He has a long history of seizures in the setting of traumatic 
brain injury as below. His presentation of seizure was in the 
setting of having eloped from ___ home nd then missing 
his scheduled antiepileptics. He had no infectious signs or 
symptoms. Labs were unremarkable. While in the ED, he had 
another grand mal seizure ___ which resolved after receiving 
2mg IV Ativan. He was seen by neurology who felt his seizures 
wer most consistent with missing his home AEDS and recommended 
restarting these. He was maintained on his home lacosamide 200mg 
BID and levetireacetam 1000mg PO BID. He did not have any 
additional seizures while in the hospital receiving his home 
antiepileptics. Of note, throughout admission he repeatedly 
reported that the reason he had seizures was not because of not 
taking his medications, but that he was receiving subpar 
medications from ___ pharmacy on ___. He was 
evaluated by psychiatry for concern for paranoid ideation which 
psychiatry felt was mostly in setting of TBI with frontal trauma 
- they did not feel his behavior was due to a primary 
psychiatric disorder. On discharge we reiterated the importance 
of him taking his home AEDs consistently - he reports that he 
typically is able to take his medications regularly when 
organized with a pill box. He is glad that he is now receiving 
medications from ___. He was discharged with 
medications at the bedside and a pillbox and seemed motivated to 
take them. 

#Traumatic brain injury
Patient experienced multiple traumas to his head playing sports 
as a child (ice hockey.) He also experienced a severe motor 
vehicle collision with head trauma. His mother describes a long 
history of impulsive behavior, paranoia, memory issues. He was 
imprisoned for ___ years in the setting of an assault. Up until 
recently he had live with his mother and ___ and 
this period was characterized by occasional absences being 
picked up by police and behavioral disruption. Patient has a 
long-standing history of being paranoid that his antiepileptics 
are contaminated or made by substandard pharmacy. There was at 
least one episode during this hospitalization where his 
antiepileptic was found in his bed suggesting that the patient 
had not taken the medication. After this time oral intake was 
observed. Psychiatry evaluated the patient on admission for 
question of paranoia and felt that his impulsivity and paranoia 
was mostly in setting of his history of TBI rather from a 
primary psychiatric process - they did note prior OT evaluation 
showing MOCA of ___ and recommended that he be discharged to a 
facility wher he could have more consistent supervision to 
ensure medication compliance. However, he was rejected from 
several rehab facilities and ___ hospitals (see below). His 
mother  who he had previously been staying with reports that she 
is no longer able to care for her son at home given her own 
medical issues and the patient additionally reports that he 
cannot return back to ___ as he is "banned from 
the ___" and cannot get reliable meds from ___ pharmacy 
there. Patient is to be discharged to ___ which 
he is amenable to with plan to follow up with a new PCP at 
___. He will need to follow with them closely 
and is scheduled to see neurology at ___ as well.

#Difficult placement 
  Both case management as well as ___ worked to try to place 
patient in a rehab facility or find an adult foster care program 
so that patient could have 24 hour supervision given his known 
impulsivity and paranoia in setting of his hx of TBI and 
medication noncompliance. Unfortunately patient unable to be 
placed at several rehab facilities, locked units (___ and 
___, as well as ___ hospitals ___ and ___ 
given prior behavior including recent elopement from ___ as well 
as hx of incarceration for ___ years. He was reportedly not 
welcomed back to ___ House after getting into an 
altercation with someone who was taunting him after one of his 
seizures. Additionally his mother who he had previously been 
staying with reports she is no longer day to care for him due to 
her own medical issues and patient does not have any family to 
stay with in ___. On day prior to discharge ___ attempted to 
work with patient in order to discharge him to a shelter with 
transportation but patient refused to go to ___ and 
at that time made homicidal remarks including "I will shoot up 
that place." On re-evaluation by psychiatry, they felt that this 
was not true homicidal ideation and he stated that he had made 
that statement in a heated moment. On repeat discussion on his 
shelter options, he accepted discharge to the ___ 
___ with transport by taxi; he will be able to travel to his 
PCP appointment at ___ from here. He has a CM that will follow 
his care and an adult foster care application is currently 
pending (please see transitional issues for contact 
information). He may benefit from submitting a secondary foster 
care application to: 
Toward Independent Living and Learning
___, Director of Adult Foster Care
___
ph: ___
fx: ___

CHRONIC ISSUES
#Urinary retention: Continued home tamsulosin.

TRANSITIONAL ISSUES:
====================
[ ] Please ensure that patient is taking his home AEDS: 
lacosamide 200mg BID and levetireacetam 1000mg PO BID
[ ] Patient has extensive TBI history with impulsive behavior 
and paranoia; if at all possible, medication administration 
should be witnessed or he should have regular monitoring for 
medication adherence 
[ ] Will need to establish new PCP ___ (prior PCP on ___ 
___ - Appointment scheduled at ___ - with regular follow 
up to ensure adherence to home AED regimen and given his history 
of TBI with impulsivity/short term memory problems 
[ ] Patient discharged to ___ as was refused 
from several rehab facilities, locked facilities and from both 
___ as well as ___ 
[ ] Patient had application for Adult Foster Care sent on 
___: for Tresor Home Car, Adult Foser Care vice President 
___ is handling the referral ___ ___, Ph ___, fax ___
[ ] Patient to be followed by followed by Case Manager ___ 
___ at:
Statewide Head Injury Program ___, ph: ___, fx: ___
[ ] Patient to have outpatient occupational therapy at ___ 
Rehab Care at ___, ___ M-F 
___, ph 61-___, fx ___, 
___ (script faxed) 
[ ] Patient may benefit from submitting a secondary foster care 
application to: 
Toward Independent Living and Learning, ___, Director of 
Adult Foster Care, ___ 
___, ph: ___, fx: ___

#CODE: FULL (presumed)
#CONTACT: ___ (mother): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LACOSamide 200 mg PO BID 
2. LevETIRAcetam 1000 mg PO BID 
3. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  LACOSamide 200 mg PO BID 
RX *lacosamide [Vimpat] 200 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
2.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice 
daily Disp #*60 Tablet Refills:*0 
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
4.Outpatient Occupational Therapy
ICD 10 S06.2X9D 
Outpatient script for occupational therapy for history of TBI 
and associated short term memory issues

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Primary:
Seizure disorder
TBI

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
- You had a seizure at the ___. 

What happened while I was in the hospital? 
- You had a second seizure while you were in the ED 
- We stopped your seizure with IV medications
- We restarted your home seizure medications, Keppra and Vimpat 

What should I do now that I am leaving the hospital?
- Continue to take your seizure medications every day.
- You should follow-up with Healthcare for the Homeless for your 
primary care, we are working on setting up an appointment for 
you.
- If you have fevers, chills, a seizure, confusion, or generally 
feel unwell, please call your doctor or go to the emergency room

We wish you the best! 
- Your ___ Care Team 
 
Followup Instructions:
___